US08791132B2
9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene (150 mg, 0.66 mmol) was dissolved in DMF (2 mL), sodium hydride (79 mg, 1.98 mmol) was added and the mixture was stirred at RT for 5 min. 2-(4-Fluoro-phenyl)-2-methyl-oxirane (201 mg, 1.32 mmol) was added dropwise into the reaction mixture and stirred at RT for 18 h. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction mixture was quenched with ice cold water (100 mL) and extracted with EtOAc (2×100 mL). The combined organic layer was washed with water (2×100 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by column chromatography (neutral alumina) Eluent: −2% MeOH in DCM followed by chiral HPLC to obtain 77 mg of 2-(4-fluoro-phenyl)-1-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-propan-2-ol. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.4 (m, 2H), 7.2 (m, 2H), 7.0 (m, 3H), 5.08 (t, 1H), 4.3 (d, 1H), 4.15 (d, 1H), 3.65 (m, 1H), 3.5 (m, 2H), 3.3 (m, 1H), 2.90 (m, 2H), 2.7 (m, 1H), 2.4 (s, 3H), 2.2 (m, 3H), 1.62 (s, 3H). Separation by chiral HPLC provided diastereomers II-121a-b.

reactant | 9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene | 0.66 mmol, 150 mg | CC1=CC=2C=3C4N(CCC3NC2C=C1)CCC4 | C15H18N2
reactant | sodium hydride | 1.98 mmol, 79 mg | [H-].[Na+]
reactant | 2-(4-Fluoro-phenyl)-2-methyl-oxirane | 1.32 mmol, 201 mg | FC1=CC=C(C=C1)C1(OC1)C | C9H9FO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluoro-phenyl)-1-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-propan-2-ol | 77 mg | FC1=CC=C(C=C1)C(CN1C=2C=CC(=CC2C=2C3N(CCC12)CCC3)C)(C)O | C24H27FN2O
